US04061656
15.0 G. of 2,4-dibromo-3,5-dimethylthiophene was dissolved in 250 ml. of anhydrous ether and cooled to -70° C. with stirring under argon. 24 Ml. of a 2.4 M solution of n-butyl lithium was slowly added to the solution and the mixture was warmed to -35° C. for 10 minutes, and then cooled again to -70° C. 7.3 G. of dimethylformamide was added slowly to the mixture and the reaction mixture was warmed to room temperature for 14 hours. The resulting solution was poured into ice water, stirred for 20 minutes and extracted with ethyl ether. The ether extracts were combined, washed with an aqueous solution of 5% sodium carbonate, saturated sodium chloride solution, dried with sodium sulfate, filtered and evaporated to yield 4-bromo-3,5-dimethylthiophene-2-carboxaldehyde, m.p. 44°-45° C.

reactant | 2,4-dibromo-3,5-dimethylthiophene | BrC=1SC(=C(C1C)Br)C | C6H6Br2S
reactant | ether | CCOCC | C4H10O
reactant | n-butyl lithium | C(CCC)[Li]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-bromo-3,5-dimethylthiophene-2-carboxaldehyde | BrC=1C(=C(SC1C)C=O)C | C7H7BrOS
